US08476457B2
4-(5-Methyl-pyridin-2-yl)-1-phenyl-1H-indazole-6-carboxylic acid methyl ester was treated with NaOH using the procedure of step 3 of Example 1 to afford 445-methyl-pyridin-2-yl)-1-phenyl-1H-indazole-6-carboxylic acid.

reactant | 4-(5-Methyl-pyridin-2-yl)-1-phenyl-1H-indazole-6-carboxylic acid methyl ester | COC(=O)C1=CC(=C2C=NN(C2=C1)C1=CC=CC=C1)C1=NC=C(C=C1)C | C21H17N3O2
reactant | NaOH | [OH-].[Na+]
product | 1-phenyl-1H-indazole-6-carboxylic acid | C1(=CC=CC=C1)N1N=CC2=CC=C(C=C12)C(=O)O | C14H10N2O2
